US04874775
N-(4-fluorobenzyl)-N-(pyridin-3-yl)-methanesulfonamide
A 4.04 g. portion of 3-(4-fluorobenzylamino)pyridine was dissolved in 15 ml. of dichloromethane and 3.5 g. of methanesulfonic anhydride was added. The mixture was stirred at ambient temperature for 1 day, and was then stirred under reflux for 1 day more. It was then cooled and extracted with 25 ml. of aqueous sodium bicarbonate and with 20 ml. of water. The organic phase was dried and evaporated under vacuum. The residue was dissolved in dichloromethane and chromatographed over silica gel, eluting with dichloromethane. The product-containing fractions were combined and evaporated, and the residue was triturated with petroleum ether and diethyl ether to obtain 1.96 g. of the desired product, m.p. 93°-95°.

reactant | 3-(4-fluorobenzylamino)pyridine | FC1=CC=C(CNC=2C=NC=CC2)C=C1 | C12H11FN2
reactant | methanesulfonic anhydride | CS(=O)(=O)OS(=O)(=O)C | C2H6O5S2
solvent | dichloromethane | ClCCl | CH2Cl2
product | N-(4-fluorobenzyl)-N-(pyridin-3-yl)-methanesulfonamide | FC1=CC=C(CN(S(=O)(=O)C)C=2C=NC=CC2)C=C1 | C13H13FN2O2S
